US07678818B2
b) Preparation of N-(4-pentafluoroethyl-benzyl)-2-(3-trifluoromethyl-phenyl)-acetamide
A solution of 4-pentafluoroethyl-benzylamine (485 mg, 2.16 mmol), 3-(trifluoromethyl)-phenylacetic acid (484 mg, 2.37 mmol), 4-methylmorpholine (654 mg, 6.46 mmol), and HBTU (1.23 g, 3.23 mmol) in DMF (30 mL) was stirred at RT for 16 h, then the reaction mixture was partitioned between water and ethyl acetate. The organic layer was washed with brine, dried (MgSO4), and evaporated. Chromatography (SiO2, heptane-ethyl acetate gradient) afforded the title compound (692 mg, 78%). Light yellow solid, MS (ISP) 412.2 (M+H)+.

reactant | 4-pentafluoroethyl-benzylamine | 2.16 mmol, 485 mg | FC(C(F)(F)F)(C1=CC=C(CN)C=C1)F | C9H8F5N
reactant | 3-(trifluoromethyl)-phenylacetic acid | 2.37 mmol, 484 mg | FC(C=1C=C(C=CC1)CC(=O)O)(F)F | C9H7F3O2
reactant | 4-methylmorpholine | 6.46 mmol, 654 mg | CN1CCOCC1 | C5H11NO
reactant | HBTU | 3.23 mmol, 1.23 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | N-(4-pentafluoroethyl-benzyl)-2-(3-trifluoromethyl-phenyl)-acetamide | 692 mg, 78% | FC(C(F)(F)F)(C1=CC=C(CNC(CC2=CC(=CC=C2)C(F)(F)F)=O)C=C1)F | C18H13F8NO
